US04155908
Preparation of 8-methylsulfonyl-12-hydroxy-5-heptadecynoic acid
A solution of ethyl 2-(6-methoxycarbonyl-2-hexyn-1-yl)-2-(4-acetoxynonyl)-2-(methoxysulfonyl)-acetate (48.8 g., 0.1 mole), water (3.6 g., 0.2 mole), and sodium chloride (6.5 g., 0.11 mole) in 120 ml. of dimethyl sulfoxide is heated at 130°-150° C. for 6 hours until evolution of carbon dioxide is completed. The mixture is cooled, treated with 400 ml. of water and the oily product taken up in ether, washed with water and dried over sodium sulfate. Evaporation of the ether in vacuo leaves the title compound as a yellow viscous oil.

reactant | ethyl 2-(6-methoxycarbonyl-2-hexyn-1-yl)-2-(4-acetoxynonyl)-2-(methoxysulfonyl)-acetate | 0.1 mole, 48.8 g | COC(=O)CCCC#CCC(C(=O)OCC)(S(=O)(=O)OC)CCCC(CCCCC)OC(C)=O | C24H40O9S
reactant | sodium chloride | 0.11 mole, 6.5 g | [Cl-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | 0.2 mole, 3.6 g | O | H2O
product | 8-methylsulfonyl-12-hydroxy-5-heptadecynoic acid | CS(=O)(=O)C(CC#CCCCC(=O)O)CCCC(CCCCC)O | C18H32O5S
